US07163937B2
A sample of benzyl (1R,2S,5R)-7-oxo-6-oxa-bicyclo[3.2.1]octan-2-ylcarbamate (2.8 g) was dissolved in anhydrous THF prior to the addition of LiBH4 (0.44 g) in one portion. The reaction mixture was stirred at rt overnight. The reaction was quenched with saturated NH4Cl and extracted with EtOAc. The organic layer was washed with brine and dried (MgSO4). Filtered, concentrated and chromatographed to get benzyl (1S,2R,4R)-4-hydroxy-2-(hydroxymethyl)cyclohexylcarbamate as a white foamy solid.

reactant | benzyl (1R,2S,5R)-7-oxo-6-oxa-bicyclo[3.2.1]octan-2-ylcarbamate | 2.8 g | O=C1O[C@@H]2CC[C@@H]([C@H]1C2)NC(OCC2=CC=CC=C2)=O | C15H17NO4
reactant | LiBH4 | 0.44 g | [Li+].[BH4-]
solvent | THF | C1CCOC1 | C4H8O
product | benzyl (1S,2R,4R)-4-hydroxy-2-(hydroxymethyl)cyclohexylcarbamate | O[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)CO | C15H21NO4
